US05877199
Allyl 2-(indol-6-yl)acetate
750 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added to a solution of 450 mg of 2-(indol-6-yl)acetic acid [synthesized according to the procedures described in Chem. Pharm. Bull., 20, 2163 (1972)], 0.27 ml of allyl alcohol and 480 mg of 4-dimethylaminopyridine in 20 ml of methylene chloride, at room temperature, and the resulting mixture was stirred overnight. After completion of the reaction, the reaction mixture was acidified by the addition of a 3% aqueous solution of hydrochloric acid, followed by extraction with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate, and then the solvent was removed by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 10 g of silica gel with a 4:1 v/v mixture of hexane and ethyl acetate as the eluent, to yield 480 mg of the title compound as an oil.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 750 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-(indol-6-yl)acetic acid | 450 mg | N1C=CC2=CC=C(C=C12)CC(=O)O | C10H9NO2
reactant | allyl alcohol | 0.27 ml | C(C=C)O | C3H6O
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 480 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Allyl 2-(indol-6-yl)acetate | 480 mg | N1C=CC2=CC=C(C=C12)CC(=O)OCC=C | C13H13NO2
